US08217069B2
2,4-Dihydroxy-6-methoxy-5-nitropyrimidine
To a suspension of barbituric acid (51.2 g) in methanol (1 L) was added concentrated sulfuric acid (80 mL) in a dropwise manner over 20 minutes, and the mixture was stirred at room temperature for 22 hours. The crystals were collected by filtration. The collected crystals were washed with methanol, cold water and diethyl ether successively, and dried under reduced pressure to give 2,4-dihydroxy-6-methoxypyrimidine (52.9 g). To a mixture of fuming nitric acid (20 mL) and concentrated sulfuric acid (10 mL) was added 2,4-dihydroxy-6-methoxypyrimidine (14.2 g) slowly at around 15° C., and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added ice water (150 mL), and the mixture was stirred at room temperature for 30 minutes. The crystals were collected by filtration. The collected crystals were washed with water, and dried under reduced pressure to give the title compound (7.4 g).

reactant | nitric acid | 20 mL | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2,4-dihydroxy-6-methoxypyrimidine | 14.2 g | OC1=NC(=CC(=N1)O)OC | C5H6N2O3
product | 2,4-Dihydroxy-6-methoxy-5-nitropyrimidine | 7.4 g | OC1=NC(=C(C(=N1)O)[N+](=O)[O-])OC | C5H5N3O5
